US04243406
5-(2',4'-Dichlorophenyl)-4-isoxazolecarbonyl chloride (2.0 g.; 0.007 mol.) was covered with methanol and the solution was heated on a steam cone for 2 hours. The excess methanol was then removed under reduced pressure and the resulting residue was dissolved in hot pentane. The product crystallized from the pentane solution to yield methyl-5-(2',4'-dichlorophenyl)-4-isoxazolecarboxylate (1.2 g.; 63.1% yield) having a melting point of 83°-84° C. and the following analysis:

reactant | 5-(2',4'-Dichlorophenyl)-4-isoxazolecarbonyl chloride | 0.007 mol, 2.0 g | ClC1=C(C=CC(=C1)Cl)C1=C(C=NO1)C(=O)Cl | C10H4Cl3NO2
reactant | methanol | CO | CH4O
product | methyl-5-(2',4'-dichlorophenyl)-4-isoxazolecarboxylate | 1.2 g, 63.1% yield | COC(=O)C=1C=NOC1C1=C(C=C(C=C1)Cl)Cl | C11H7Cl2NO3
